US05281748
3.0 g (0.0068 mol) of N-(3-phenoxypropyl)aminomethanediphosphonic acid tetraethyl ester are dissolved in 20 ml of dichloromethane, and 4.4 ml (0.0343 mol) of trimethylbromosilane are added. After 72 hours at room temperature, the solvent is removed under reduced pressure. The remaining oil is dissolved in warm 95% aqueous methanol. On cooling, N-(3-phenoxypropyl)aminomethanediphosphonic acid of m.p. 226°-228° (decomp.) is obtained.

reactant | N-(3-phenoxypropyl)aminomethanediphosphonic acid tetraethyl ester | 0.0068 mol, 3.0 g | C(C)OP(OCC)(=O)C(P(OCC)(=O)OCC)NCCCOC1=CC=CC=C1 | C18H33NO7P2
reactant | trimethylbromosilane | 0.0343 mol, 4.4 ml | C[Si](Br)(C)C | C3H9BrSi
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(3-phenoxypropyl)aminomethanediphosphonic acid | O(C1=CC=CC=C1)CCCNC(P(O)(=O)O)P(O)(=O)O | C10H17NO7P2
